US06369086B1
6-Chloro-3-[ethoxymethylidene]-1H-pyrrolo[2,3-b]pyridin-2-one
This compound was synthesized from 6-chloro-1H-pyrrolo[2,3-b]pyridin-2-one and diethoxymethyl acetate according to Procedure A. 1H NMR 400 MHz (DMSO-d6): δ11.06 (s, 1H); 7.84 (s, 1H); 7.63 (d, 1H); 6.98 (d, 1H); 4.39 (m, 2H); 1.32 (m, 3H).

reactant | 6-chloro-1H-pyrrolo[2,3-b]pyridin-2-one | ClC1=CC=C2C(=N1)NC(C2)=O | C7H5ClN2O
reactant | diethoxymethyl acetate | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 6-Chloro-3-[ethoxymethylidene]-1H-pyrrolo[2,3-b]pyridin-2-one | ClC1=CC=C2C(=N1)NC(C2=COCC)=O | C10H9ClN2O2
